### PR TITLE
[Merged by Bors] - feat(Data/Matrix/Mul): add `mul_vecMulVec` and `vecMulVec_mul`

### PR DESCRIPTION
**Pull request by themathqueen**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Mul.lean [hunk 1]
```diff
@@ -778,11 +778,19 @@ theorem vecMulVec_mulVec [Fintype n] (u : m → α) (v w : n → α) :
   ext i
   simp [mulVec, dotProduct, vecMulVec, Finset.mul_sum, mul_assoc]
 
+theorem mul_vecMulVec [Fintype m] (M : Matrix n m α) (x : m → α) (y : l → α) :
+    M * vecMulVec x y = vecMulVec (M *ᵥ x) y := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Mul.lean]: I think we prefer to have the variables in alphabetical order, so
```suggestion
theorem mul_vecMulVec [Fintype m] (M : Matrix l m α) (x : m → α) (y : n → α) :
    M * vecMulVec x y = vecMulVec (M *ᵥ x) y := by
```
and similarly below

File: Mathlib/Data/Matrix/Mul.lean [hunk 2]
```diff
@@ -778,11 +778,19 @@ theorem vecMulVec_mulVec [Fintype n] (u : m → α) (v w : n → α) :
...
+  ext
+  simp_rw [mul_apply, vecMulVec_apply, mulVec, dotProduct, Finset.sum_mul, mul_assoc]
+
+theorem vecMulVec_mul [Fintype n] (x : l → α) (y : n → α) (M : Matrix n m α) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Mul.lean]:
```suggestion
theorem vecMulVec_mul [Fintype n] (x : l → α) (y : m → α) (M : Matrix m n α) :
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Data/Matrix/Mul.lean [hunk 3]
```diff
@@ -778,11 +778,19 @@ theorem vecMulVec_mulVec [Fintype n] (u : m → α) (v w : n → α) :
   ext i
   simp [mulVec, dotProduct, vecMulVec, Finset.mul_sum, mul_assoc]
 
+theorem mul_vecMulVec [Fintype m] (M : Matrix l m α) (x : m → α) (y : n → α) :
+    M * vecMulVec x y = vecMulVec (M *ᵥ x) y := by
+  ext
+  simp_rw [mul_apply, vecMulVec_apply, mulVec, dotProduct, Finset.sum_mul, mul_assoc]
+
+theorem vecMulVec_mul [Fintype n] (x : l → α) (y : m → α) (M : Matrix m n α) :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Mul.lean]:
```suggestion
theorem vecMulVec_mul [Fintype m] (x : l → α) (y : m → α) (M : Matrix m n α) :
```
